US04195096
PREPARATION OF 2-[3-(DECYLCARBAMOYL)PROPYLOXY]ETHYLACETATE
In a glass reaction vessel 17.7 grams (0.0616 mole) of N-decyl-4-(2-hydroxyethoxy)butyramide was admixed with 25.3 grams (0.25 mole) of acetic anhydride in the presence of 4 grams sodium acetate catalyst. This mixture was heated to 100° C. on a steam bath until a reaction was completed within a period of 3 hours. The mixture was then drowned in water, salted out and phase separated. The upper liquid phase was dried to 17.8 grams of liquid product having a refractive index η d25 =1.4586 and an IR of 6.09 mu.

reactant | N-decyl-4-(2-hydroxyethoxy)butyramide | 0.0616 mole, 17.7 grams | C(CCCCCCCCC)NC(CCCOCCO)=O | C16H33NO3
reactant | acetic anhydride | 0.25 mole, 25.3 grams | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sodium acetate | 4 grams | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 2-[3-(DECYLCARBAMOYL)PROPYLOXY]ETHYLACETATE | C(CCCCCCCCC)NC(=O)CCCOCCOC(C)=O | C18H35NO4
